* source P1_CEF
R_R26         N107616 N108481  4.7 TC=0,0 
Q_Q8         N107208 N107208 N107376 BC817-25 
C_C2         N107314 N107364  10u  TC=0,0 
R_R3'         N107208 N107314  680 TC=0,0 
V_V4         N107492 N107198 0
V_V2         N107208 0 14V
R_R25         N108532 N107616  10 TC=0,0 
R_R22         N107492 N1074280  22 TC=0,0 
R_RL         N107364 0  900 TC=0,0 
R_R23         N107198 N107208  1k TC=0,0 
Q_Q7         N107376 N1074280 N107498 BC817-25 
V_V3         N107468 0  AC 0
+SIN 0 40m 4k 0 0 0
R_R1         0 N107198  100 TC=0,0 
C_C1         N107468 N107198  10u  TC=0,0 
Q_Q4         N107314 N107498 N107616 BC817-25 
R_R27         N108481 N108485  1 TC=0,0 
R_R28         N108485 0  1 TC=0,0 
R_R29         0 N108532  4.7 TC=0,0 
D_D1         N111996 0 LG_T656-TYP 
R_R30         N107208 N111996  330 TC=0,0 
